US08981085B2
N-(4-Chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrazine-2-carboxamide (0.230 g, 0.673 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (0.404 g, 2.02 mmol) were placed in n-BuOH (3 mL) and heated to 155° C. for 18 hours in a sealed tube. The reaction was then cooled to room temperature and concentrated to dryness. The resulting residue was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 5-75% CH3CN/water gradient; 25 CV) to give (R)-tert-butyl 1-(3-(pyrazine-2-carboxamido)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.120 g, 35% yield).

reactant | N-(4-Chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrazine-2-carboxamide | 0.673 mmol, 0.230 g | ClC1=C2C(=NC=C1C(F)(F)F)NC=C2NC(=O)C2=NC=CN=C2 | C13H7ClF3N5O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.02 mmol, 0.404 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(3-(pyrazine-2-carboxamido)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.120 g, 35% yield | N1=C(C=NC=C1)C(=O)NC1=CNC2=NC=C(C(=C21)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O)C(F)(F)F | C23H26F3N7O3
